Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Hemodialysis 

 
History of Present Illness:
___ year old male with NHL, cardiomyopathy and ESRD on HD 
presenting with shortness of breath. The patient reports feeling 
well until midnight on the morning of admission. He woke up 
suddenly from sleep and could not breath. He got up out of bed 
and sat in the chair with improvement in his symptoms. He 
reported a productive cough. He proceeded to dialysis today 
without significant change in his symptoms (better or worse). 
Following dialysis, he went to a store with his nephew, who 
thought the patient did not appear well. He came to the ED for 
evaluation.  
.  
The patient reports being troubled with a productive cough 
(yellow sputum) intermittently for several weeks, accompanied 
with shortness of breath. He states that after his first cycle 
of Bendamustine, these symptoms improved for a day, and then 
returned. He had his second cycle of Bendamustine (higher dose) 
11 days ago with improvement in his cough/shortness of breath 
until last night.  
.  
He denied fever, sweats, chest pain, headache, blurred vision, 
difficulty swallowing, nausea, vomiting, abdominal pain, 
constipation, diarrhea, dysuria, numbness/tingling or dizziness. 
He has been eating, but reports "not feeling hungry." He does 
endorse chills today with dialysis. He has been hospitalized 
recently for both pneumonia and CHF exacerbation.  

 
Past Medical History:
-Non-Hodgkin's Lymphoma (___)- chemo last finished 6 mo ago and 
stopped due to cardiomyopathy  
-Cardiomyopathy/Aortic Stenosis, EF 30% (since ___ 
Adriamycin  
-End-stage kidney disease on hemodialysis on ___  
and ___ via a left upper extremity fistula. He is followed by 
 
___ for his kidney disease.  
-Type 2 diabetes ___ diagnosed in ___.  
-Gout  
-Meningioma  
-Spinal stenosis- s/p surgery ___ yrs ago  
-Osteoarthritis of the hips status post bilateral total hip  
replacement  
-Prior herpes simplex virus infection of the upper lip  

 
Social History:
___
Family History:
Mother had diabetes ___ and died at the age of ___ years. 
Father died at the age of ___ years. He has three brothers and 
three sisters who are basically healthy. There is no family 
history of sudden death or premature atherosclerotic 
cardiovascular disease.  

 

 
Physical Exam:
PE: VS: 98.3 88/62 (repeat 98/64) 81 18 97% RA  
Gen: well appearing, no distress, speaks fluently, comfortable 
at 30 degree angle  
HEENT: OP clear, MMM without lesion, EOMI  
Neck: neck veins not visible  
Chest: tunnelled right IJ accessed, c/d/i and nontender  
Car: Regular, III/VI SM (cres-dec) RUSB and II/VI HSM apex  
Resp: Insp crackles ___ up on right, ___ up on left  
Abd: + BS, s/nt/nd  
Ext: no ___ edema, 2+ DP  
Neuro: strength ___ throughout, a+o X 3, speech fluent  

 
Pertinent Results:
___ 12:00AM BLOOD WBC-2.5* RBC-3.17* Hgb-10.9* Hct-32.9* 
MCV-104* MCH-34.5* MCHC-33.2 RDW-16.0* Plt Ct-67*
___ 03:00PM BLOOD WBC-2.6* RBC-3.91* Hgb-13.3* Hct-39.9* 
MCV-102* MCH-33.9* MCHC-33.3 RDW-16.0* Plt Ct-66*
___ 03:00PM BLOOD Neuts-65.2 ___ Monos-6.1 Eos-9.2* 
Baso-0.5
___ 12:00AM BLOOD Plt Ct-67*
___ 03:00PM BLOOD Glucose-156* UreaN-28* Creat-3.3*# 
Na-147* K-4.8 Cl-106 HCO3-31 AnGap-15
___ 12:00AM BLOOD CK(CPK)-19*
___ 03:00PM BLOOD CK(CPK)-17*
___ 03:00PM BLOOD CK-MB-4 ___
___ 12:00AM BLOOD CK-MB-4 cTropnT-0.11*
___ 03:00PM BLOOD cTropnT-0.10*
___ 12:00AM BLOOD Calcium-8.1* Phos-2.6* Mg-1.7
___ 12:00AM BLOOD Digoxin-LESS THAN 
___ 04:54PM BLOOD Lactate-1.6
___ 03:10PM BLOOD Lactate-1.7
 
Brief Hospital Course:
  
.  
1. Shortness of breath: Description of symptoms more consistent 
with paroxysmal nocturnal dyspnea as it woke him from sleep and 
he had to sit up to catch his breath. He has an elevated BNP and 
crackles on exam. He does not have any clear triggers for CHF 
exacerbation and has no oxygen requirement. He was dialyzed on 
the day of admission making volume overload less likely. CXR 
demonstrated a new infiltrate, and his asymmetric lung exam is 
consistent with a right lung process. He has had no fever and 
per his report, his cough is consistent with his chronic cough 
and the sputum is not new or different. He has slight leukopenia 
(day 11 post chemotherapy). He was started on levoquin/Vanco for 
his presumed pneumonia.  MI was ruled out with cardiac enzymes.  
He was also continued on his nebs and his cardiac medications as 
we felt heart failure could be contributing. 
.  
2. Diabetes: Continued his oral agents (glyburide) as the 
patient tolerating PO.
.  
3. ESRD: Dialysis consulted in the morning, decided to do an 
extra session of ultrafiltration to make the patient more 
comfortable. We discontinued his PhosLo as his phosphorus was 
low. 
.  
4. Leukopenia/Thrombocytopenia: s/p chemotherapy on ___. Plt 
count at baseline, wbc slightly lower most likely due to 
infection. We trended his CBC which remained stable and he did 
not require any transfusions.  

 
Medications on Admission:
Carvedilol 12.5 mg twice daily--notes say twice daily, OMR 
reports once daily  
Lisinopril 5 mg daily  
Spironolactone 25 mg daily  
Albuterol inh prn  
Nephrocaps  
PhosLo 1 tab tid:meals  
Digoxin 125 mcg daily  
Glipizide 5 mg bid  
Compazine prn  

 
Discharge Medications:
1. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
5. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Glipizide 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q48H (every 
48 hours) for 5 days: please take on ___ night, ___ 
night, and ___ night.
Disp:*2 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pneumonia
Chronic Systolic Heart Failure
End Stage Renal Disease on Hemodialysis 
Non Hodgkins Lymphoma

 
Discharge Condition:
Stable

 
Discharge Instructions:
You came to the hospital with shortness of breath.  We believe 
this is from pneumonia.  We treated you with antibiotics and 
your remained stable.
.
We made the following changes to your medications:
Started Levofloxacin 500 mg po every other day (you received 
this medication on ___ so you will not need it again until 
___ night)
.
If you have worsening shortness of breath, chest pain, fever, if 
you notice blood in your sputum or have any other symptoms that 
are concerning to you, please call your doctor or come to the 
emergency room.
 
Followup Instructions:
___